US04311700
6-isopropyl-5,6-dihydropyrimido[4,5-b][1,5]benzodiazepin-5-one
12.7 g (0.03 mol) of 5-ethoxycarbonyl-4-(2-isopropylaminoanilino)pyrimidine in 42.2 ml of a 0.1 N. aqueous sodium hydroxide solution are heated for 1 hour under reflux. The solvent is removed on a rotary evaporator and the crystalline residue is dried in vacuo at 60° C. 28.9 g (0.11 mol) of triphenylphosphine and 16.9 g (0.11 mol) of carbon tetrachloride are added to the dry product, dissolved in 150 ml of absolute dioxan, and the mixture is stirred for 5 hours at 80° C. The solvent is removed on a rotary evaporator, and the oily residue which remains is chromatographed on neutral silica gel using 99:1 methylene chloride/methanol as the eluant; yield: 6.3 g, with m.p. 204° to 206° C. (from isopropanol).

reactant | 5-ethoxycarbonyl-4-(2-isopropylaminoanilino)pyrimidine | 0.03 mol, 12.7 g | C(C)OC(=O)C=1C(=NC=NC1)NC1=C(C=CC=C1)NC(C)C | C16H20N4O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | triphenylphosphine | 0.11 mol, 28.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 0.11 mol, 16.9 g | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dioxan | 150 ml | O1CCOCC1 | C4H8O2
product | 6-isopropyl-5,6-dihydropyrimido[4,5-b][1,5]benzodiazepin-5-one | C(C)(C)N1C(C2=C(NC3=C1C=CC=C3)N=CN=C2)=O | C14H14N4O
